US07285563B2
N-(1,1′-biphenyl-4-yl)-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 4-biphenyl isocyanate. m/z (ES+) 340 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-biphenyl isocyanate | C1=CC=C(C=C1)C2=CC=C(C=C2)N=C=O | C13H9NO
product | N-(1,1′-biphenyl-4-yl)-N′-[quinolin-6-yl]urea | C1(=CC=C(C=C1)NC(=O)NC=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C22H17N3O
